Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
quinidine gluconate
 
Attending: ___.
 
Chief Complaint:
Intraventricular bleed

 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
HPI:
Mr. ___ is a ___ year-old male with a past medical history 
of
atrial fibrillation on coumadin, HTN, HLD.  Per report from the
outside hospital and his wife, the patient called his PCP today
indicating that he has a bleed hemorrhoid.  He was instructed to
go to the nearest Emergency Department for evaluation.

According to his wife, the patient presented to ___
ED.  Upon arrival at ___, Mr. ___ stated he was there 
for
a bleed hemorrhoid and something related to a fall.  He was
confused and not making much sense at the time.  The patient
underwent a CT of head and cervical spine.  The head CT showed
bilateral intraventricular blood.  The CT of the cervical spine
was negative, per report.  

Mrs. ___ INR at the outside hospital was 3.  He was given
Vitamin K and one unit of FFP.  At some point thereafter, the
patient had a seizure and was intubated for airway protection. 
He was transferred to ___ for further evaluation.  

Upon my evaluation, the patient was intubated and on propofol. 
Sedation was turned off.  His repeat INR was 2.5 at that time. 
CT imaging of the head was reviewed.  Kcentra was given to
reverse vitamin K dependent factors.  The patient was loaded 
with
1 gram of dilantin.  A stat repeat head CT and CTA was obtained.

Imaging was reviewed in real-time with Dr. ___.  Due to the
large amount of blood products in the lateral ventricles, the
patient was taken emergently to the Operating Suite from CT
scanning where he underwent bilateral occipital EVD placement.

Incidentally, the patient suffered a right posterior ocular 
bleed
that required an injection by his ophthalmologist.  This 
occurred
approximately two weeks ago.  He had no further complications
related to this event.

The patient's wife, ___, and son, ___, were updated on their
loved one's condition and plan for operative procedure.  
Informed
consent was obtained.

 
Past Medical History:
HTN, HLD, Coumadin (treated with maze procedure, taking 
coumadin.

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
PHYSICAL EXAM:
O: HR 75   BP: 144/78  RR 16  O2 Sat 100% on 40% fiO2
Gen: Intubated, sedated.  GCS 4T (E1, V1, M2)
HEENT: PERRL 2mm, brisk reaction.
Neuro:
Mental status: Unresponsive.  Extensor posturing to noxious
stimuli.

+ Corneal, gag and cough reflexes.

Motor: Extensor posturing especially noted in ___ UEs upon 
noxious
stimulation.  Little to no movement to LEs noted.  

Toes mute to plantar stroke bilaterally.
 
Pertinent Results:
CT/CTA ___:
CT Head: Interval increase in large amount of intraventricular
hemorrhage compared to the prior exam. The total width of the
frontal horns of the lateral ventricles measure about 5.9 cm,
previously 4.7 cm. Hemorrhage extends into the ___ ventricle as
seen previously. There is effacement of the sulci but the 
basilar
cisterns are patent. Opacification of the left maxillary sinus
with fluid and a calcification.
 
CTA: There is no evidence of aneurysm, conclusion or stenosis.
There is
consolidation within the upper lobes bilaterally, left greater
than right concerning for infection.
 
Labs:
WBC 12, Hgb 13.1, Hbg 37.6, plt 167
Pt 24, INR 2.3, PTT 36.3
Na 138, K 4.4, Cl 103, HCO3 25, BUN 34, Cr 1.2, Gluc 143
Ca 9.2, Phos 2.1, Mg 1.9

 
Brief Hospital Course:
Mr. ___ was brought emergently to OR on ___ for 
bilateral posterior EVD placement for large bilateral 
intra-ventricular hemorrhage. He was brought to ICU for close 
monitoring. At 0400 on ___ on exam the patient had no corneals 
and developed pupil asymmetry with a nonreactive left pupil. He 
received an additional dose of 50grams of Mannitol. The family 
was at the bedside, a short meeting was held with the family and 
the neurosurgery team regarding the patient's condition and 
prognosis with surgery and without surgery. The family did not 
want any further surgical interventions, they felt that, that is 
what the patient would say if he could. The patient was made 
DNR/DNI. Another family meeting was held with the ICU team 
regarding changing status to CMO. The family requested more time 
in order to give the rest of the family members a chance to say 
goodbye. In the afternoon the  patient was made comfort measures 
only, shortly after he was pronounced dead. 
 
Medications on Admission:
Medications prior to admission:
Lisinopril 40mg daily
Warfarin 1mg MWF, 2mg all other days
ASA 81mg daily
Atorvastatin 20mg daily
Fluticasone 50mcg 1 spray each nare before HS
Omeprazole 20mg daily
Sotalol 80mg BID
Spironolacton-HCTZ ___ daily

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased 
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___